US07294633B2
4-(4-chloro-2-fluoroanilino)-6-(4-aminophenyl)furo[2,3-d]pyrimidine
0.95 g (2.5 mmols) of 4-(4-chloro-2-fluoranilino)-6-(4-nitrophenyl)furo[2,3-d]pyrimidine suspended in ca. 50 ml of THF, 2 ml of triethylamine and 2 ml of DMEU, mixed with a spatula tip of catalyst suspension (ethanolic Raney nickel) and shaken over night under H2 at normal pressure. The suspension is filtered by suction through Celite, concentrated by evaporation, mixed with H2O, set at pH 10 with 5% NaOH solution, filtered by suction, and the residue washed with a lot of H2O. The product is worked up by column chromatography (dissolved in acetone and added to the column as a silica gel adsorbate, silica gel, pentane:ethyl acetate=3:2, m.p.: 229-232° C.

reactant | 4-(4-chloro-2-fluoranilino)-6-(4-nitrophenyl)furo[2,3-d]pyrimidine | 2.5 mmols, 0.95 g | ClC1=CC(=C(NC=2C3=C(N=CN2)OC(=C3)C3=CC=C(C=C3)[N+](=O)[O-])C=C1)F | C18H10ClFN4O3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | DMEU | 2 ml | CN1CCN(C1=O)C | C5H10N2O
solvent | THF | ca. 50 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 4-(4-chloro-2-fluoroanilino)-6-(4-aminophenyl)furo[2,3-d]pyrimidine | ClC1=CC(=C(NC=2C3=C(N=CN2)OC(=C3)C3=CC=C(C=C3)N)C=C1)F | C18H12ClFN4O
